* Production Test 127: Diode Clipper variation
V1 in 0 SIN(0 6.7825636806661596 50)
R1 in out 370.6753951670042
D1 out 0 D1N4148
.model D1N4148 D(Is=2.682n N=1.836 Rs=0.5662 Ikf=44.17m Cjo=4p M=0.3333 Vj=0.5 Fc=0.5 Bv=100 Ibv=100u Tt=11.54n)
.tran 0.1m 0.1
.end
